US05561145
4-(p-formamido-phenoxy)piperidine:
3-p-methoxyphenyl-5(S)-[(4-p-formamido-phenoxypiperidino)methyl]-2-oxazolidinone, m.p. 102°-103°; [α]D =-31.2° (DMSO);

reactant | 3-p-methoxyphenyl-5(S)-[(4-p-formamido-phenoxypiperidino)methyl]-2-oxazolidinone | COC1=CC=C(C=C1)N1C(O[C@H](C1)CN1CCC(CC1)OC1=CC=C(C=C1)NC=O)=O | C23H27N3O5
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-(p-formamido-phenoxy)piperidine | C(=O)NC1=CC=C(OC2CCNCC2)C=C1 | C12H16N2O2
